US04207317
The solution of 2.2 g of 1-phenyl-3-methyl-4-carbethoxy-2-pyrazolin-5-one and 1.1 g of p-aminophenol in 120 ml xylene is refluxed for one hour, and 15 ml of the solvent are distilled off gradually to remove water. The cooled mixture is filtered and evaporated, the residue crystallized from warm methanol and recrystallized from ethyl acetate, to yield the 1-phenyl-3-methyl-4-(p-hydroxyphenylcarbamoyl)-2-pyrazolin-5-one melting at 135°-140° and remelting at 225°; it contains half a mole of ethyl acetate as solvate.

reactant | 1-phenyl-3-methyl-4-carbethoxy-2-pyrazolin-5-one | 2.2 g | C1(=CC=CC=C1)N1N=C(C(C1=O)C(=O)OCC)C | C13H14N2O3
reactant | p-aminophenol | 1.1 g | C1=CC(=CC=C1N)O | C6H7NO
solvent | xylene | 120 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-phenyl-3-methyl-4-(p-hydroxyphenylcarbamoyl)-2-pyrazolin-5-one | C1(=CC=CC=C1)N1N=C(C(C1=O)C(NC1=CC=C(C=C1)O)=O)C | C17H15N3O3
